US07960377B2
To a suspension of methyl 2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (1.24 g, 5.96 mmol) in THF (30 mL) at 0° C. was added borane-tetrahydro-furan complex (23.83 mL, 23.83 mmol). The reaction was warmed to room temperature and allowed to stir for 2 hours. LCMS analysis of the reaction mixture indicated consumption of starting material. The reaction was chilled to 0° C. and quenched slowly with MeOH (20 mL). The reaction mixture was concentrated in vacuo and the treated with 5% sulfuric acid in MeOH (50 mL). The solution was heated to reflux for 1 hour. The solvent was removed under reduced pressure and the resulting oil was dissolved in EtOAc (100 mL) and washed successively with saturated aqueous NaHCO3 (2×50 mL) and brine (50 mL). The combined organics were dried over anhydrous Na2SO4 and concentrated in vacuo to provide methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (1 g, 5.15 mmol, 86% yield) as a white solid. The product was used without purification. LCMS (+ESI) m/z=195.0 [M+H]+.

reactant | methyl 2-oxo-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 5.96 mmol, 1.24 g | O=C1NC2=C(OC1)N=CC(=C2)C(=O)OC | C9H8N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | methyl 2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 5.15 mmol, 1 g, 86% yield | N1C2=C(OCC1)N=CC(=C2)C(=O)OC | C9H10N2O3
